US06194410B1
0.1 g (1 mmol) of 1-methyl-piperazine was added to a solution of 0.14 g (0.4 mmol) of 3-benzenesulphonyl-5-chloro-2-methylsulphanyl-pyrazolo[1,5-a]pyrimidin-7-ylamine in 5 ml of DMF and stirred at 90° for 1 hr. The reaction solution was evaporated and the residue was partitioned between H2O and CH2Cl2. The aqueous phase was extracted three times with 50 ml of CH2Cl2. The combined organic phases were dried (MgSO4), filtered and evaporated. Subsequent chromatography (silica gel CH2Cl2/MeOH 9:1) and crystallization from EtOH yielded 0.1 g (59%) of 3-benzenesulphonyl-5-(4-methyl-piperazin-1-yl)-2-methylsulphanyl-pyrazolo[1,5-a]pyrimidin-7-ylamine as colorless crystals, m.p.>230°.

reactant | 1-methyl-piperazine | 1 mmol, 0.1 g | CN1CCNCC1 | C5H12N2
reactant | 3-benzenesulphonyl-5-chloro-2-methylsulphanyl-pyrazolo[1,5-a]pyrimidin-7-ylamine | 0.4 mmol, 0.14 g | C1(=CC=CC=C1)S(=O)(=O)C=1C(=NN2C1N=C(C=C2N)Cl)SC | C13H11ClN4O2S2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 3-benzenesulphonyl-5-(4-methyl-piperazin-1-yl)-2-methylsulphanyl-pyrazolo[1,5-a]pyrimidin-7-ylamine | 0.1 g, 59% | C1(=CC=CC=C1)S(=O)(=O)C=1C(=NN2C1N=C(C=C2N)N2CCN(CC2)C)SC | C18H22N6O2S2
